US05859007
2-[3-(1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 190 mg (0.28 mmol) of 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 39, in 15 mL of a 10% solution of formic acid in absolute ethanol is added 200 mg of 10% palladium on carbon. The resulting black suspension is heated at reflux for 6 h, then cooled to RT. The reaction mixture is filtered through Celite to remove the catalyst and the solvent removed in vacuo. Purification of the residue by silica gel flash column chromatography using hexane/EtOAc 3/2 as eluent followed by further purification via silica gel MPLC using an Si60 column and hexane/EtOAc 2/1 as eluent and lyophilization afforded 30 mg of the title compound as a white amorphous solid: 1H NMR (DMSO-d6, 300 MHz) δ7.48-6.98 (m, 17H), 6.70 (d, 1H, J=7.8), 4.86 (m, 1H), 4.27 (m, 2H), 3.81 (s, 3H), 2.87 (dd, 2H), 1.29 (s, 3H), 1.00 (m, 6H); low resolution MS (FAB)m/e 602 (MH+), 437, 279, 223.

reactant | 2-[3-(1-Benzyl-1H-indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.28 mmol, 190 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C43H41N5O4
reactant | formic acid | C(=O)O | CH2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 2-[3-(1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 30 mg | N1N=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C36H35N5O4
